US07728003B2
Step C. 8-Cyclohexyl-2-methylsulfanyl-5-oxo-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Sodium (25 wt % dispersion in paraffin wax, 0.10 g, 3.8 mmol) was added to t-butanol (1.8 mL) at rt. After 10 minutes, a solution of 4-[cyclohexyl-(2-ethoxycarbonyl-ethyl)-amino]-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester (1.0 g, 2.5 mmol) in 10 mL of toluene was added to the sodium t-butoxide solution and the resulting mixture was heated at 90° C. for 30 minutes. The reaction mixture was then cooled and the solution was adjusted to pH 7 using a 1N HCl solution. The solution was then extracted with EtOAc (2×20 mL) and the organic layer was dried (MgSO4) and concentrated to provide 0.55 g (42%) of the title compound.

reactant | Sodium | 3.8 mmol, 0.10 g | [Na] | Na
reactant | 4-[cyclohexyl-(2-ethoxycarbonyl-ethyl)-amino]-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | 2.5 mmol, 1.0 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)N(CCC(=O)OCC)C1CCCCC1 | C19H29N3O4S
reactant | sodium t-butoxide | CC(C)([O-])C.[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | t-butanol | 1.8 mL | C(C)(C)(C)O | C4H10O
product | 8-Cyclohexyl-2-methylsulfanyl-5-oxo-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.55 g, 42% | C(C)OC(=O)C1C(C2=C(N=C(N=C2)SC)N(C1)C1CCCCC1)=O | C17H23N3O3S
